US09238640B2
Preparation of 2-(4-(2-(1H-Imidazol-1-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-[4-(2-bromoethoxy)-3,5-dimethylphenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.12 g, 0.27 mmol) in acetone (5 mL) was added imidazole (0.18 g, 2.70 mmol) and Cs2CO3 (0.26 g, 0.80 mmol). The reaction mixture was stirred at room temperature for 16 hours. Solvent was removed under reduced pressure, and the residue was purified by column chromatography (silica gel 230-400 mesh; 3% methanol in dichloromethane as eluent) to give the title compound as a white solid. Yield: 0.04 g (35%). MP 218-219° C. 1H NMR (400 MHz, DMSO-d6): δ 11.80 (br s, 1H), 7.83 (s, 2H), 7.72 (s, 1H), 7.29 (s, 1H), 6.92 (s, 1H), 6.70 (d, J=2.4 Hz, 1H), 6.49 (d, J=2.4 Hz, 1H), 4.36 (t, J=4.8 Hz, 2H), 4.02 (t, J=4.8 Hz, 2H), 3.86 (s, 3H), 3.81 (s, 3H), 2.06 (s, 6H). MS (ES) m/z: 419.57 (M−1).

reactant | 2-[4-(2-bromoethoxy)-3,5-dimethylphenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.27 mmol, 0.12 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H21BrN2O4
reactant | imidazole | 2.70 mmol, 0.18 g | N1C=NC=C1 | C3H4N2
reactant | Cs2CO3 | 0.80 mmol, 0.26 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-(4-(2-(1H-Imidazol-1-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | N1(C=NC=C1)CCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C23H24N4O4
